US07049313B2
5-Methoxy-2-nitro 9H-thioxanthene
To a cooled (0° C.) suspension of 5-methoxy-2-nitro-thioxanthene-9-one (24.46 g, 85.13 mmol) in anhydrous tetrahydrofuran (40 ml) under nitrogen atmosphere, was added drop wise borane-THF complex (170 ml, 1.0M in THF). The mixture was allowed to warm to room temperature with stirring overnight. The reaction mixture was cooled (0° C.) and the excess borane was quenched with acetone. The solvent was evaporated in vacuo. The residue was purified by flash chromatography (1:1, dichloromethane/hexane) to give the title compound (11.59 g, 50%) as a bright yellow amorphous solid. 1HNMR (300 MHz, DMSO-d6): δH=3.86 (3H, s), 4.03 (2H, s), 7.00 (2H, dd), 7.28 (1H, t), 7.73 (1H, d), 8.05 (1H, dd), 8.28 (1H, d).

reactant | 5-methoxy-2-nitro-thioxanthene-9-one | 85.13 mmol, 24.46 g | COC1=C2SC=3C=CC(=CC3C(C2=CC=C1)=O)[N+](=O)[O-] | C14H9NO4S
reactant | borane THF | 1.0M, 170 ml | B.C1CCOC1
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 5-Methoxy-2-nitro 9H-thioxanthene | 11.59 g, 50% | COC1=C2SC=3C=CC(=CC3CC2=CC=C1)[N+](=O)[O-] | C14H11NO3S
